US05877196
(E)-2-[4-[4-(1H-Imidazol-1-yl)phenoxy]-2-buten-1-yl]-1H-isoindole-1,3(2H)-dione
A solution of 16.0 g of 4-(1H-imidazol-1-yl)phenol in 250 ml of dimethylformamide, is treated with 4.2 g of 60% NaH. To the suspension of the sodium salt, 23.5 g of (E)-2-[4-chloro-2-buten-1-yl)-1H-isoindole-1,3(2H)-dione is added, and the reaction mixture stirred and heated on the steam bath for 16 hours. The dimethylformamide is removed in vacuo, and the residue stirred with 250 ml of water. The insolubles are collected, washed with water, and dried. Recrystallization from ethanol gives the desired product as a solid, m.p. 170°-171° C.

reactant | 4-(1H-imidazol-1-yl)phenol | 16.0 g | N1(C=NC=C1)C1=CC=C(C=C1)O | C9H8N2O
reactant | NaH | 4.2 g | [H-].[Na+]
reactant | sodium | [Na] | Na
reactant | (E)-2-[4-chloro-2-buten-1-yl)-1H-isoindole-1,3(2H)-dione | 23.5 g | ClC/C=C/CN1C(C2=CC=CC=C2C1=O)=O | C12H10ClNO2
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | (E)-2-[4-[4-(1H-Imidazol-1-yl)phenoxy]-2-buten-1-yl]-1H-isoindole-1,3(2H)-dione | N1(C=NC=C1)C1=CC=C(OC/C=C/CN2C(C3=CC=CC=C3C2=O)=O)C=C1 | C21H17N3O3
